US05166380
10 g (42 mmoles) of 1,4-dibromo-benzene and 600 mg of anhydrous NiCl2 are placed in a two-necked 250 ml flask which has a cooler, dripper funnel and magnetic agitation. 17.6 ml (100 mmoles) of triethyl-phosphite are added to the mixture dropwise and heated to 170° C. in an oil bath. The mixture is left under agitation at 170° C. for 2 hours, it is then cooled to 100° C. and subjected to vacuum distillation (1 mm Hg) to eliminate the excess triethyl-phosphite. The residue solubilized in 10 ml of ethanol undergoes chromatography on a silica column (5×56 cm) eluting first with 4 liters of a 95:5 ethyl-acetate/ethanol mixture and then with 3 liters of a 90:10 ethyl-acetate/ethanol mixture. 6.0 g (17.4 mmoles) of 1,4-benzene-diphosphonic acid tetra-ethyl ester are obtained with a molar yield of 41%.

reactant | 1,4-dibromo-benzene | 42 mmoles, 10 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | triethyl-phosphite | 100 mmoles, 17.6 ml | C(C)OP(OCC)OCC | C6H15O3P
catalyst | NiCl2 | 600 mg | Cl[Ni]Cl
product | 1,4-benzene-diphosphonic acid tetra-ethyl ester | 17.4 mmoles, 6.0 g, yield of 41% | C(C)OP(OCC)(=O)C1=CC=C(C=C1)P(OCC)(=O)OCC | C14H24O6P2
